US07632838B2
2-{4-[(3-chlorophenyl)sulfonyl]piperidin-yl}-3-fluoropyridine
Using the procedure from Example 7A, 4-[(3-chlorophenyl)sulfonyl]piperidine (100 mg, 0.38 mmol) was reacted with 2-chloro-3-fluoropyridine (100 mg, 0.76 mmol), DIEA (0.2 ml, 1.14) and 1,4-dioxane (0.3 ml) to afford the title compound (9 mg), a yellow solid, in 7% yield.

reactant | 4-[(3-chlorophenyl)sulfonyl]piperidine | 0.38 mmol, 100 mg | ClC=1C=C(C=CC1)S(=O)(=O)C1CCNCC1 | C11H14ClNO2S
reactant | 2-chloro-3-fluoropyridine | 0.76 mmol, 100 mg | ClC1=NC=CC=C1F | C5H3ClFN
reactant | DIEA | 0.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
product | 2-{4-[(3-chlorophenyl)sulfonyl]piperidin-yl}-3-fluoropyridine | 9 mg, 7% yield | ClC=1C=C(C=CC1)S(=O)(=O)C1CCN(CC1)C1=NC=CC=C1F | C16H16ClFN2O2S
